US09421205B2
(f) tert-Butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I47)
A solution of tert-butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I46) (0.157 g, 0.264 mmol) in DMF (15 mL) was added to a solution of 10% Pd/C (95 mg) in DMF (5 mL). The reaction was stirred at room temperature for 24 hours under an atmosphere of hydrogen. The reaction was filtered through a pad of celite and washed through with EtOAc (100 mL). The solvent was removed in vacuo to afford a pale yellow oil which was purified by column chromatography on silica gel (0-20% EtOAc in petroleum benzine 40-60° C.) to yield the title compound (I47) (0.128 g, 81%) as a pale yellow viscous oil; 1H NMR (400 MHz, CDCl3) δ 8.53 (d, J=0.4 Hz, 1H), 7.59-7.54 (m, 2H), 7.39 (s, 1H), 7.28-7.17 (m, peaks obscured by CDCl3), 4.25 (bs, 2H), 3.75 (s, 2H), 3.68 (s, 3H), 3.17-3.04 (m, 4H), 2.81 (t, J=12.1 Hz, 2H), 2.64 (tt, J=11.8, 3.4 Hz, 1H), 1.83 (d, J=13.0 Hz, 2H), 1.67-1.59 (m, 2H), 1.49 (s, 9H). LCMS Method C: rt 7.02 min; m/z 621 [M+Na]+, 599 [M+H]+, 543 [M-tButyl+2H]+, 499 [M-Boc+2H]+.

reactant | tert-butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.264 mmol, 0.157 g | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C32H33F3N4O4
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 95 mg | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C32H37F3N4O4
